US06610707B1
1-(1H-Benzo[d]imidazol-2-ylsulfonyl)-2-piperidinecarboxylic acid (17.5 g) [see Preparation 16] was dissolved in tetrahydrofuran (180 ml) and cooled to −20° C. Triethylamine (10.2 ml) was added to the mixture followed by ethyl chloroformate (5.4 ml). The reaction mixture was stirred for 1 hour at −20° C. and 0.88 aqueous ammonia solution (25 ml) was added. The mixture was then stirred for a further 2 hours at room temperature. The organic solvent was removed under reduced pressure and ethyl acetate added. The organic layer was separated, washed with water, dried over magnesium sulphate and the solvent removed under reduced pressure to afford 1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidinecarboxamide (14.73 g).

reactant | 1-(1H-Benzo[d]imidazol-2-ylsulfonyl)-2-piperidinecarboxylic acid | 17.5 g | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C(=O)O | C13H15N3O4S
reactant | Triethylamine | 10.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 25 ml | N | H3N
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidinecarboxamide | 14.73 g | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C(=O)N | C13H16N4O3S
